US08912188B2
To a solution of 6-chloro-2,3-dihydro-1-benzofuran-3-one (2.5 g, 14.83 mmol) in methanol (50 mL) was treated with NaBH4 (1.2 g, 31.58 mmol) in four equivalent portions at room temperature, until the reaction was complete, as monitored by TLC (1 h). The reaction mixture was quenched by the addition of acetone (10 mL). This mixture was then treated with HCl (3N, 20 mL). After stirring for another 1 h, the resulting solution was extracted with ethyl acetate (3×50 mL) dried over anhydrous magnesium sulfate and concentrated under vacuum to give 6-chloro-1-benzofuran as oil (2 g, crude).

reactant | 6-chloro-2,3-dihydro-1-benzofuran-3-one | 14.83 mmol, 2.5 g | ClC1=CC2=C(C(CO2)=O)C=C1 | C8H5ClO2
reactant | NaBH4 | 31.58 mmol, 1.2 g | [BH4-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 6-chloro-1-benzofuran | ClC1=CC2=C(C=CO2)C=C1 | C8H5ClO
